* Spice automatic export. Generated by Caneda.

* Spice netlist.
DD1 1 out 1N4148 
 

RR1 0 4 10K m=1.0 scale=1.0 temp=26.5 dtemp=1.0 tc1=0.0 tc2=0.0 noisy=0
CC1 out 0 100n C m=1.0 scale=1.0 temp=26.5 dtemp=1.0 tc1=0.0 tc2=0.0 ic=0 
VV1 4 0 DC 3 AC 3 0 SIN( 0 3 1k 0.0 0.0 )

XX1 4 out 1 OPAMP av=1 rin=100Meg rout=0 gbw=10Meg 

* Device models.
.model 1N4148 D(BV=7.52E+01 CJO=4.01E-12 IS=2.52E-09 M=4.00E-01 N=1.76E+00 RS=5.73E-01 TT=2.00E-08)
.model C C

* Subcircuits models.
.subckt OPAMP in+ in- out av=100k rin=100Meg rout=0 gbw=10Meg 
Rin in+ in- {rin} 
Eg 1 0 in+ in- {av} 
Rp 1 2 10k 
Cp 2 0 {av/(2*3.14159*10k*gbw)} 
Eout 3 0 2 0 1 
Rout 3 out {rout} 
.ends

* Spice directives.
.tran 1u 10m 0 
